US09371321B2
Preparation 16: Benzyl (S)-(1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate
To a stirred solution of (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethan-1-amine (1.0 g, 3.93 mmol) in DCM (20 mL) was added triethylamine (796 mg, 7.87 mmol) followed by CbzCl (808 mg, 4.72 mmol) at 0° C. The reaction mixture was stirred at about 0 to 26° C. for 1.5 hours. After the solvent was removed, the residue was purified by silica gel column chromatography (PE/EtOAc=10:1) to give the title compound as a yellow oil (1.44 g, 94.7%).

reactant | (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethan-1-amine | 3.93 mmol, 1.0 g | BrC=1C=C2C(=NC1[C@H](C)N)C=CN2C | C10H12BrN3
reactant | triethylamine | 7.87 mmol, 796 mg | C(C)N(CC)CC | C6H15N
reactant | CbzCl | 4.72 mmol, 808 mg | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Benzyl (S)-(1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate | 1.44 g, 94.7% | BrC=1C=C2C(=NC1[C@H](C)NC(OCC1=CC=CC=C1)=O)C=CN2C | C18H18BrN3O2
